US07598423B2
Synthesis of 1-[4-(4-{fluoro-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone
A mixture of 3-{[4-(4-Acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-fluoro-methyl}-benzonitrile (4.7 g, 11.26 mmol), zinc (II) bromide (10.1 g, 45 mmol), sodium azide (5.85 g, 90 mmol), and N-methylpyrrolidinone (50 ml) is heated to 140° C. and stirred 1 hr. The reaction is cooled to room temperature and diluted with water (200 mL). The pH is adjusted to 2 with 5N aqueous hydrochloric acid and extracted with ethyl acetate (3×100 mL). The extracts are combined, dried over magnesium sulfate, filtered, and concentrated. The residue is purified via reversed phase C18 chromatography eluting with 4:6 acetonitrile:(0.1% trifluoroacetic acid) water to 7:3 acetonitrile:(0.1% trifluoroacetic acid) water in 8 runs to give 3.08 g, 59%, of the title compound as fine white needles. 1H NMR (DMSO-d6) δ 12.86 (s, 1H), 8.13 (s, 1H), 8.03 (d, 1H), 7.81 (d, 1H), 7.61-7.70 (m, 2H), 7.48 (m, 4H), 6.78-6.93 (d, 1H), 6.72 (d, 1H), 5.29 (s, 2H), 2.58-2.63 (m, 5H), 1.46-1.53 (m, 2H), 0.88 (t, 3H). LCMS M−1 459.

reactant | 3-{[4-(4-Acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-fluoro-methyl}-benzonitrile | 11.26 mmol, 4.7 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)F)C=C1)CCC)O | C26H24FNO3
reactant | sodium azide | 90 mmol, 5.85 g | [N-]=[N+]=[N-].[Na+]
reactant | N-methylpyrrolidinone | 50 ml | CN1C(CCC1)=O | C5H9NO
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | water | 200 mL | O | H2O
catalyst | zinc (II) bromide | 45 mmol, 10.1 g | [Br-].[Zn+2].[Br-]
product | 1-[4-(4-{fluoro-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | FC(C1=CC=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=C1)C1=CC(=CC=C1)C1=NN=NN1 | C26H25FN4O3
